US05232945
B. 3-(3-Amino-4-hydroxyphenyl)-2-ethoxypropanenitrile
A solution of 3-(4-benzyloxy-3-nitrophenyl)-2-ethoxypropanenitrile (0.54 g, 1.7 mmol) in ethanol (25 ml) and acetic acid (75 ml) containing 10% palladium on carbon (0.40 g) was hydrogenated at 45 psi for 1 hour. The catalyst was filtered and the solution concentrated. The residue was treated with 5% sodium bicarbonate (100 ml) and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water (2×100 ml) and brine (100 ml), dried over sodium sulfate and concentrated. The product was isolated by column chromatography (silica gel, 2% methanol in chloroform) as a solid (0.20 g, mp 114°-115° C.).

reactant | 3-(4-benzyloxy-3-nitrophenyl)-2-ethoxypropanenitrile | 1.7 mmol, 0.54 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(C#N)OCC)[N+](=O)[O-] | C18H18N2O4
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | 3-(3-Amino-4-hydroxyphenyl)-2-ethoxypropanenitrile | 0.20 g | NC=1C=C(C=CC1O)CC(C#N)OCC | C11H14N2O2
